US07067540B2
To a solution of 4-benzyloxy-1H-pyridin-2-one (1.0 g, 5 mmol) and K2CO3 (2.0 g, 9.9 mmol) in DMF (30 mL) was added 3-fluorobenzyl bromide (1.4 g, 7.5 mmol), and the reaction mixture was heated to 110° C. for 3 h. The reaction mixture was cooled to room temperature, and partitioned between EtOAc and water. The organic solution was washed with water and then brine, dried (Na2SO4), filtered and concentrated under reduced pressure. Purification by flash column chromatography (silica, eluent 97:3 to 93:7 methylene chloride/methanol) afforded 4-benzyloxy-1-(3-fluorobenzyl)-1H-pyridin-2-one (1.04 g, 67%): 1H NMR (300 MHz, CDCl3) δ 7.45-7.25 (m, 5H), 7.13 (d, J=8 Hz, 1H), 7.10-6.90 (m, 3H), 6.10-5.95 (m, 2H), 5.07 (s, 2H), 5.00 (s, 2H).

reactant | 4-benzyloxy-1H-pyridin-2-one | 5 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC(NC=C1)=O | C12H11NO2
reactant | K2CO3 | 9.9 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-fluorobenzyl bromide | 7.5 mmol, 1.4 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-benzyloxy-1-(3-fluorobenzyl)-1H-pyridin-2-one | 1.04 g, 67% | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CC1=CC(=CC=C1)F)=O | C19H16FNO2
